US06479621B2
Also, in Macromolecules, 29, 3432-3435 (1996), it is reported that using Pseudomonas oleovorans, PHA containing 3-hydroxy-4-phenoxybutyric acid and 3-hydroxy-6-phenoxyhexanoic acid as units is produced from 6-phenoxyhexanoic acid, PHA containing 3-hydroxy-4-phenoxybutyric acid, 3-hydroxy-6-phenoxyhexanoic acid and 3-hydroxy-8-phenoxyoctanoic acid as units is produced from 8-phenoxyoctanoic acid, and PHA containing 3-hydroxy-5-phenoxyvaleric acid and 3-hydroxy-7-phenoxyheptanoic acid as units is produced from 11-phenoxyundecanoic acid. Yields of polymers in this report are extracted and are shown in the following.

reactant | 3-hydroxy-4-phenoxybutyric acid | OC(CC(=O)O)COC1=CC=CC=C1 | C10H12O4
reactant | 3-hydroxy-6-phenoxyhexanoic acid | OC(CC(=O)O)CCCOC1=CC=CC=C1 | C12H16O4
product | 6-phenoxyhexanoic acid | O(C1=CC=CC=C1)CCCCCC(=O)O | C12H16O3
